US07163937B2
20% Palladium hydroxide (0.30 g) was carefully wetted down under nitrogen with isopropanol (10 mL) then (3R,4S)-methyl 4-((3S)-3-(benzyloxycarbonylamino)-2-oxo-pyrrolidin-1-yl)-1-isopropylpiperidine-3-carboxylate (1.10 g) in isopropanol (10 mL) was added. The mixture was hydrogenated on a Parr shaker for 20 hours. Worked up by filtering off the catalyst under nitrogen through fiberglass filter paper. The filtrate was stripped to give (3R,4S)-methyl 4-((3S)-3-amino-2-oxopyrrolidin-1-yl)-1-isopropylpiperidine-3-carboxylate (695 mg) as an oil. Yield=93%. LCMS detects (M+H)+=284.34.

reactant | (3R,4S)-methyl 4-((3S)-3-(benzyloxycarbonylamino)-2-oxo-pyrrolidin-1-yl)-1-isopropylpiperidine-3-carboxylate | 1.10 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](CN(CC1)C(C)C)C(=O)OC)=O | C22H31N3O5
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
catalyst | Palladium hydroxide | 0.30 g | [OH-].[Pd+2].[OH-]
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | (3R,4S)-methyl 4-((3S)-3-amino-2-oxopyrrolidin-1-yl)-1-isopropylpiperidine-3-carboxylate | 695 mg, Yield=93% | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](CN(CC1)C(C)C)C(=O)OC)=O | C14H25N3O3
